US05374656
The procedure is as in Example 1, but using 1.04 g of 2-[3-(3-methylphenyl)ureido]acetic acid, 1.8 g of tert-butyl (RS)-2-anilino-2-(3-bromophenyl)acetate and 0.36 cm3 of thionyl chloride as starting materials The product obtained is purified by chromatography on 100 g of silica (0.04-0.063 mm) contained in a column 3 cm in diameter [eluent: methanol/dichloromethane (1/99 by volume)], using an excess pressure of 40 kPa of nitrogen and collecting 10-cm3 fractions. Fractions 11 to 17 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. and the residue obtained is recrystallized from cyclohexane. 1.4 g of tert-butyl (RS)-2-(3-bromophenyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate melting at 103° C. are then obtained.

reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 1.04 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | tert-butyl (RS)-2-anilino-2-(3-bromophenyl)acetate | 1.8 g | N(C1=CC=CC=C1)C(C(=O)OC(C)(C)C)C1=CC(=CC=C1)Br | C18H20BrNO2
reactant | thionyl chloride | 0.36 cm3 | S(=O)(Cl)Cl | Cl2OS
product | tert-butyl (RS)-2-(3-bromophenyl)-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetate | 1.4 g | BrC=1C=C(C=CC1)C(C(=O)OC(C)(C)C)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C28H30BrN3O4
